US09024093B2
6-Quinoxaline boronic acid (S51)
To 6-quinoxaline boronic acid pinacol ester (S50) (256 mg, 1.00 mmol, 1.00 equiv) in THF (2.0 mL) at 23° C. was added H2O (8.0 mL) and NaIO4 (321 mg, 1.50 mmol, 1.50 equiv). After stirring for 1.0 hr at 23° C., the reaction mixture was added to 1N HCl aq (20 mL) and was further stirred for 1.0 hr. To the reaction mixture was added EtOAc (20 mL) and the phases were separated. The aqueous phase was extracted with EtOAc (2×20 mL). The combined organic phases are washed with brine (20 mL) and dried (Na2SO4). The filtrate was concentrated in vacuo and the residue was triturated with Et2O to afford 121 mg of the title compound as a colorless solid (70% yield).

reactant | 6-quinoxaline boronic acid pinacol ester | 1.00 mmol, 256 mg, 1.00 equiv | N1=CC=NC2=CC(=CC=C12)B1OC(C)(C)C(C)(C)O1 | C14H17BN2O2
reactant | H2O | 8.0 mL | O | H2O
reactant | HCl | 1N, 20 mL | Cl | ClH
reactant | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 6-Quinoxaline boronic acid | 121 mg, 70% yield | N1=CC=NC2=CC(=CC=C12)B(O)O | C8H7BN2O2
